US05942506
1-(4-Fluorostyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
To a mixture of 2.0 g (6.2 mmoles) of 1-(4-fluorostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine prepared according to Example 86 and 10 ml of glacial acetic acid a solution of 3.0 g (79 mmoles) of sodium borohydride in 10 ml of water is added in small portions, while the temperature of the reaction mixture is kept below 35° C. The mixture is then stirred for further 2 hours and made alkaline by adding some sodium carbonate solution to it. The alkaline solution is extracted three times with 20 ml of ethyl acetate. The ethyl acetate phases are dried, evaporated and the evaporation residue is crystallized from ethanol. The crude product is purified by recrystallization from ethanol. Thus 1.39 g (69%) of substance pure on TLC is obtained. M.p.: 170-174° C.

reactant | 1-(4-fluorostyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 6.2 mmoles, 2.0 g | FC1=CC=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=C1 | C19H15FN2O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 79 mmoles, 3.0 g | [BH4-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-(4-Fluorostyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | FC1=CC=C(C=CC2=NNC(CC3=C2C=C2C(=C3)OCO2)C)C=C1 | C19H17FN2O2
